US07595398B2
(S)-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-thiazolidine-3-carboxylic acid tert-butyl ester (Compound 5334)
(S)-Thiazolidine-2,3-dicarboxylic acid 3-tert-butyl ester (49.4 mg, 0.21 mmol) was dissolved in DMF (2 mL). DIEA (74 μL, 0.42 mmol) was added followed by HATU (80.7 mg, 0.21 mmol). The reaction was stirred at ambient temperature for 15 minutes. Then 4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide (54.6 mg, 0.21 mmol) was added. The reaction was stirred at ambient temperature overnight and then heated to 50° C. for 7 hours. The reaction was cooled, filtered, and purified by reverse phase HPLC to give the desired product. Yield 30.5 mg. MS: 475.1 (M+H+); H1 NMR (DMSO-d6): δ(ppm) 0.54-0.75 (m, 4H), 1.22-1.47 (m, 9H), 2.79-2.90 (m, 1H), 3.05-3.25 (m, 2H), 3.55-3.75 (m, 1H), 5.33-5.50 (m, 2H), 7.78-7.98 (m, 5H), 8.40-8.48 (d, 1H), 12.50-12.59 (s, 1H).

reactant | (S)-Thiazolidine-2,3-dicarboxylic acid 3-tert-butyl ester | 0.21 mmol, 49.4 mg | C(C)(C)(C)OC(=O)N1[C@@H](SCC1)C(=O)O | C9H15NO4S
reactant | DIEA | 0.42 mmol, 74 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.21 mmol, 80.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide | 0.21 mmol, 54.6 mg | NC=1SC=C(N1)C1=CC=C(C(=O)NC2CC2)C=C1 | C13H13N3OS
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-thiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](SCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C22H26N4O4S2
